US07091214B2
A 4 dram vial containing a stir bar was charged sequentially with copper(I) iodide (0.038 g), potassium phosphate (0.890 g), pyrazole (0.164 g), 7-bromo-2-ethoxymethyl-1-(3-methoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.786 g), (±)-trans-1,2-diaminocyclohexane (0.030 mL), and anhydrous 1,4-dioxane (2 mL). The vial was flushed with nitrogen, capped, and placed in an oil bath at 110° C. After 15.5 hours, the reaction was cooled to room temperature and purified by flash column chromatography using a gradient of CMA/chloroform as the eluent. Subsequent recrystallization from acetonitrile yielded 0.190 g of 2-ethoxymethyl-1-(3-methoxypropyl)-7-(pyrazol-1-yl)-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, mp 159.0–160.0° C.

reactant | potassium phosphate | 0.890 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | pyrazole | 0.164 g | N1N=CC=C1 | C3H4N2
reactant | 7-bromo-2-ethoxymethyl-1-(3-methoxypropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.786 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CCCOC)COCC | C17H21BrN4O2
reactant | (±)-trans-1,2-diaminocyclohexane | 0.030 mL | N[C@H]1[C@@H](CCCC1)N | C6H14N2
catalyst | copper(I) iodide | 0.038 g | [Cu]I
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2-ethoxymethyl-1-(3-methoxypropyl)-7-(pyrazol-1-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.190 g | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)N2N=CC=C2)N)N1)CCCOC | C20H24N6O2
